US08440651B2
To a suspension of dimethyl (2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylphosphonate (0.32 g) in anhydrous THF (3 mL) at 0° C. was added 2.0 M of lithium diisopropylamide in tetrahydrofuran (1.4 eq). The resulting solution was allowed to warm to RT (room temperature) before adding a solution of tert-butyl 3-oxoazetidine-1-carboxylate (1.4 eq) in anhydrous THF (3 mL). The reaction mixture was stirred at room temperature for 1 h, then partitioned between brine and DCM. The organic layer was isolated, dried (MgSO4) and concentrated in vacuo to give 0.34 g of crude tert-butyl 3-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylene)azetidine-1-carboxylate.

reactant | dimethyl (2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylphosphonate | 0.32 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CP(OC)(OC)=O)N2CCOCC2 | C14H18ClN4O4P
reactant | lithium diisopropylamide | 2.0 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | tert-butyl 3-oxoazetidine-1-carboxylate | 1.4 eq | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 1.4 eq | O1CCCC1 | C4H8O
product | tert-butyl 3-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylene)azetidine-1-carboxylate | 0.34 g | ClC=1N=C(C2=C(N1)C=CC(=N2)C=C2CN(C2)C(=O)OC(C)(C)C)N2CCOCC2 | C20H24ClN5O3
